US08871797B2
A 25-mL round bottom flask was charged with (3-bromo-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester (230.0 mg, 0.65 mmol), 1-methylpyrazole-5-boronic acid (392.9 mg, 1.93 mmol), sodium carbonate (137.8 mg, 1.3 mmol), DME (5 mL) and water (0.5 mL) under argon atmosphere. Tetrakis(triphenylphosphine)palladium (75.1 mg, 0.065 mmol) was added and reaction mixture purged with argon again. The reaction mixture was heated at 80° C. overnight then cooled to room temperature. Ethyl acetate (10 mL) was added then washed with brine and water. Organic layer was separated, dried over anhydrous sodium sulfate, filtered and concentrated to give a residue that was subjected to a purification by flash chromatography (SiO2, Hexanes/EtOAc gradient elution) to afford [3-(2-methyl-2H-pyrazol-3-yl)-4-trifluoromethoxy-phenyl]-carbamic acid tert-butyl ester as an off-white solid in 36.5% yield. LCMS m/z (%)=358 (M+H, 100). 1H NMR (400 MHz, DMSO-d6) δ: 9.83 (bs, 1H), 7.77 (d, J=8.95 Hz, 1H), 7.69 (s, 1H), 7.63 (s, 1H), 7.57 (d, J=8.84 Hz, 1H), 6.45 (s, 1H), 3.78 (s, 3H), 1.60 (s, 9H).

reactant | (3-bromo-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | 0.65 mmol, 230.0 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)OC(F)(F)F)Br)=O | C12H13BrF3NO3
reactant | 1-methylpyrazole-5-boronic acid | 1.93 mmol, 392.9 mg | CN1N=CC=C1B(O)O | C4H7BN2O2
reactant | sodium carbonate | 1.3 mmol, 137.8 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 5 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.065 mmol, 75.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.5 mL | O | H2O
product | [3-(2-methyl-2H-pyrazol-3-yl)-4-trifluoromethoxy-phenyl]-carbamic acid tert-butyl ester | 36.5% yield | C(C)(C)(C)OC(NC1=CC(=C(C=C1)OC(F)(F)F)C=1N(N=CC1)C)=O | C16H18F3N3O3
